### PR TITLE
Formal: aesopify

### PR DESCRIPTION
**Pull request by Kha**
This is looking pretty good. The main remaining proof boilerplate is from the lack of an induction tactic that can deal with non-variable type family indices.

/cc @leodemoura @jlimperg

### CODE REVIEW

File: Do/Formal.lean [hunk 1]
```diff
@@ -474,150 +455,98 @@ def Assg.bot : {Γ : _} → Assg (Γ ++ [α]) → α
...
+  suffices {Δ': _ } → (s : Stmt m ω Γ Δ' b c β) → (h : Δ' = (Δ ++ [α])) → StateT.run ((S (h ▸ s)).eval (a :: ρ) σ) a = s.eval ρ (h ▸ Assg.extendBot a σ) >>= fun
+    | r :: σ => pure ((r :: Assg.dropBot (h ▸ σ)), Assg.bot (h ▸ σ))
+    from fun s => this s rfl
+  intro Δ' s h
+  induction s generalizing Δ a with
+    subst h
+  | bind s₁ s₂ ih₁ ih₂ =>
+    have ih₁ := @ih₁ (h := rfl)
+    have ih₂ := @ih₂ (h := rfl)
+    aesop (add safe cases Neut)
```
Comment (Kha) [inline Do/Formal.lean:468]: @jlimperg Would it make sense for `norm simp` to accept arbitrary proof terms (possibly containing metavariables that are then abstracted), like `simp [ih₁ rfl, ih₂ rfl]` does?

File: Do/Formal.lean [hunk 2]
```diff
@@ -374,41 +378,18 @@ theorem eval_R [Monad m] [LawfulMonad m] (s : Stmt m ω Γ Δ b c α) : (R s).ev
...
-    induction e ρ σ generalizing σ with
-    | nil => simp [Stmt.eval.go]
-    | cons _ _ ih' =>
-      simp [ExceptT.run_bind, ih, Stmt.eval.go]
-      apply bind_congr; intro
-      split <;> simp [ih']
+  | sfor e =>
+    simp only [Stmt.eval, R]
+    induction e ρ σ generalizing σ <;> aesop (add norm unfold Stmt.eval.go)
+  | _ => aesop (add unsafe cases Neut) (erase Aesop.BuiltinRules.destructProducts)
```
Comment (Kha) [inline Do/Formal.lean:384]: I had to apply this `erase` a few times because otherwise `split` would stop splitting a goal :shrug:

File: Do/Formal.lean [hunk 3]
```diff
@@ -474,150 +455,98 @@ def Assg.bot : {Γ : _} → Assg (Γ ++ [α]) → α
...
 
-/-! The equivalence proof cited in the paper follows from the invariants of `D` and `S`. -/
+/-! The equivalence proof cited in the paper follows from the invariants of `D` and `R`. -/
 
 theorem Do.trans_eq_eval [Monad m] [LawfulMonad m] : ∀ s : Do m α, Do.trans s = ⟦s⟧ := by
-  intro s
-  simp [D_eq, eval_R, runCatch, Do.trans, Do.eval]
-  apply bind_congr; intro
-  split <;> simp
+  aesop (add norm simp [D_eq, eval_R], norm unfold [runCatch, Do.trans, Do.eval])
```
Comment (Kha) [inline Do/Formal.lean:549]: This is the change that inspired one part of https://github.com/JLimperg/aesop/issues/23
